US04636521
(i) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl-]methyl]benzenesulphonamide
Benzenesulphonyl chloride (0.33 ml) was added to an ice-cooled, stirred solution of 2-[2-[5-(aminomethyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione, hemisulphate, hydrate (0.84 g) in dry pyridine (25 ml). After 2 h with ice cooling, the mixture was stirred at room temperature for 1 h. Water (5 ml) was added and the solution was stirred for 1 h. The mixture was diluted to 100 ml with water and the yellow solid (0.8 g) filtered off, m.p. 214°-6°.

reactant | Benzenesulphonyl chloride | 0.33 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-[2-[5-(aminomethyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione | NCC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H17N3O2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | Water | 5 ml | O | H2O
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl-]methyl]benzenesulphonamide | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C1=CC=CC=C1 | C25H21N3O4S
